US09193693B2
Into a 50-mL round-bottom flask, was placed a solution of methyl 2-(benzo[d][1,3]dioxol-5-yl)-3-((S)-2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate (94 mg, 0.24 mmol, 1.00 equiv) in methanol (15 mL). This was followed by the addition of a solution of sodium hydroxide (58.9 mg, 1.47 mmol, 5.00 equiv) in water (3 mL) dropwise with stirring. The resulting solution was stirred for 5 hr at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with H2O. The pH value of the aqueous solution was adjusted to 3-4 with 1N aqueous hydrogen chloride. The resulting solids were collected by filtration. The crude product (100 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-2): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (10% CH3CN up to 80% in 8.5 min, hold 80% in 1 min, up to 100% in 0.1 min, hold 100% in 0.8 min); Detector, UV 220&254 nm. This resulted in 40 mg (44%) of 2-(benzo[d][1,3]dioxol-5-yl)-3-(S)-2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 2-(benzo[d][1,3]dioxol-5-yl)-3-((S)-2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | 0.24 mmol, 94 mg, 1.00 equiv | O1COC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1N=C2N2[C@H](CCC2)C)C(=O)OC | C22H21N3O4
reactant | sodium hydroxide | 1.47 mmol, 58.9 mg, 5.00 equiv | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | quinoxaline-6-carboxylic acid | N1=CC=NC2=CC(=CC=C12)C(=O)O | C9H6N2O2
